US08912176B2
Preparation of lithium 6-(1-hydroxy-1-methylethyl)pyridine-3-carboxylate
To a stirred solution of methyl 6-(1-hydroxy-1-methylethyl)pyridine-3-carboxylate (479 mg, 2.45 mmol) in THF, (10 mL) was added LiOH (2M aqueous solution, 1.35 mL, 2.70 mmol). After 4 hours the solvent was removed at reduced pressure to give the title compound (458 mg, 100%) that was used without further purification.

reactant | methyl 6-(1-hydroxy-1-methylethyl)pyridine-3-carboxylate | 2.45 mmol, 479 mg | OC(C)(C)C1=CC=C(C=N1)C(=O)OC | C10H13NO3
reactant | LiOH | 2.70 mmol, 2M, 1.35 mL | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | lithium 6-(1-hydroxy-1-methylethyl)pyridine-3-carboxylate | 458 mg, 100% | OC(C)(C)C1=CC=C(C=N1)C(=O)[O-].[Li+] | InChI=1S/C9H11NO3.Li/c1-9(2,13)7-4-3-6(5-10-7)8(11)12;/h3-5,13H,1-2H3,(H,11,12);/q;+1/p-1
